US07205411B2
Following the same procedure as described in Example 1, (2-bromo-6-methyl-pyridin-3-yl)amine (200 mg, 1.07 mmol) reacted with (PPh3)2PdCl2 (36 mg, 0.05 mmol), Cul (10 mg, 0.05 mmol) and 1-ethynyl-4-fluorobenzene (184 μl, 1.07 mmol) in triethylamine (5 ml). The crude residue was purified by flash chromatography (hexane/ethyl acetate 7:3) to yield 164 mg (0.72 mmol, 68%) of (2-(4-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine as a yellow solid. The hydrochloride of (2-(4-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine was prepared as described in Example 1 to yield after trituration with ethyl acetate 154 mg (0.51 mmol, 71%) of the title hydrochloride as a yellow solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 1.07 mmol, 200 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | 1-ethynyl-4-fluorobenzene | 1.07 mmol, 184 μl | C(#C)C1=CC=C(C=C1)F | C8H5F
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.05 mmol, 36 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2-(4-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine | 0.72 mmol, 164 mg, 68% | FC1=CC=C(C=C1)C#CC1=NC(=CC=C1N)C | C14H11FN2
